US07265115B2
tert-butyl (1S,4S)-5-(6-fluoro-3-pyridinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate
tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate (0.300 g, 1.01 mmol), prepared as described in (J. Med. Chem., (1988) 31, 1598-1611), in anhydrous toluene (30 ml) was treated with 2-fluoro-5-iodopyridine (0.34 g, 1.52 mmol), available as described in (U.S. Pat. No. 5,733,912), Pd2(dba)3 (0.028 g, 0.03 mmol), (S)-(−)-2-(diphenylphosphino)-2′-methoxy-1,1′-binaphthyl (0.028 g, 0.06 mmol), available from Strem Chemicals, and sodium tert-butoxide (0.248 g, 2.58 mmol). The reaction mixture was heated at 80° C. for 5 hours. The reaction mixture was poured into diethyl ether (100 mL), washed with brine (100 ml), dried (MgSO4), and concentrated under reduced pressure. The residue was purified by chromatography on SiO2 (3% MeOH/CH2Cl2) to provide the title compound (0.095 g, 21% yield) as a yellow oil. MS (DCI/NH3) m/z 276 (M+H)+.

reactant | tert-Butyl (1S,4S)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 1.01 mmol, 0.300 g | [C@@H]12N(C[C@@H](NC1)C2)C(=O)OC(C)(C)C | C10H18N2O2
reactant | 2-fluoro-5-iodopyridine | 1.52 mmol, 0.34 g | FC1=NC=C(C=C1)I | C5H3FIN
reactant | (S)-(−)-2-(diphenylphosphino)-2′-methoxy-1,1′-binaphthyl | 0.06 mmol, 0.028 g | COC1=C(C2=CC=CC=C2C=C1)C3=C(C=CC4=CC=CC=C43)P(C5=CC=CC=C5)C6=CC=CC=C6 | C33H25OP
reactant | sodium tert-butoxide | 2.58 mmol, 0.248 g | CC(C)([O-])C.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.03 mmol, 0.028 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | tert-butyl (1S,4S)-5-(6-fluoro-3-pyridinyl)-2,5-diazabicyclo[2.2.1]heptane-2-carboxylate | 0.095 g, 21% yield | FC1=CC=C(C=N1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C15H20FN3O2
